* E:\Universiteit\Master\7 Q2 - 2021\EE4109 - Structured Electronic Design\EE4109-Structured-Electronic-Design\cir\emptyCircuit.asc
R1 out 0 {R_L}
XU1 out in 0 0 CMOS18N W={W} L={L} ID={ID}
I1 0 in I value=0 dc=0 dcvar=0 noise=0
R2 in 0 {R_s}
.param W=600u L=180n ID=6.4m R_L=100 R_s=10G
.include C18.lib
.backanno
.end
